US08119805B2
Stage (i): 1-Benzyl-4-(pyridin-3-yl)piperidin-4-ol
(Apparatus: 1 I three-necked flask with nitrogen balloon) Magnesium (5.7 g) was initially introduced into anhydrous ether (125 ml), 1,1-dibromoethane (0.5 g) and isopropyl chloride (17.3 ml) were added dropwise and the mixture was stirred for 15 min to initiate the magnesium. A solution of 3-bromopyridine (25 g) in anhydrous tetrahydrofuran (400 ml) was added dropwise at 40° C. over the course of 20 min and the mixture was then refluxed for 2 h. A solution of 1-benzylpiperidin-4-one (30 g) in anhydrous tetrahydrofuran (100 ml) was finally added dropwise at 40° C. over the course of 20 min and the mixture was stirred at room temperature overnight. Thin layer chromatography control: 10% methanol in chloroform. The reaction mixture was hydrolysed with water (50 ml) at 0° C. and filtered over Celite. Extraction was carried out with methylene chloride (2×100 ml) and the combined organic phases were washed with water (50 ml), dried over sodium sulfate and concentrated in vacuo. The crude product was purified by column chromatography (Alox neutral) with 5% methanol in chloroform. Yield: 8.2 g (19%)

reactant | Magnesium | 5.7 g | [Mg] | Mg
reactant | 1,1-dibromoethane | 0.5 g | BrC(C)Br | C2H4Br2
reactant | isopropyl chloride | 17.3 ml | C(C)(C)Cl | C3H7Cl
reactant | 3-bromopyridine | 25 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | 1-benzylpiperidin-4-one | 30 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | 50 ml | O | H2O
solvent | methanol | CO | CH4O
solvent | ether | 125 ml | CCOCC | C4H10O
product | 1-Benzyl-4-(pyridin-3-yl)piperidin-4-ol | C(C1=CC=CC=C1)N1CCC(CC1)(O)C=1C=NC=CC1 | C17H20N2O
